US07368578B2
A mixture of 4-chloromethyl-2-(2-furyl)-1,3-oxazole (10.0 g), vanillin (8.29 g), potassium carbonate (7.53 g) and N,N-dimethylformamide (100 mL) was stirred at 80° C. for 15 hrs. Water was poured into the reaction mixture, and the precipitated crystals were collected by filtration to give 4-{[2-(2-furyl)-1,3-oxazol-4-yl]methoxy}-3-methoxybenzaldehyde as brown crystals (14.90 g, yield 91%). Recrystallization from hexane-ethyl acetate gave pale-yellow prism crystals. melting point: 138-139° C.

reactant | 4-chloromethyl-2-(2-furyl)-1,3-oxazole | 10.0 g | ClCC=1N=C(OC1)C=1OC=CC1 | C8H6ClNO2
reactant | vanillin | 8.29 g | O=CC1=CC(OC)=C(O)C=C1 | C8H8O3
reactant | potassium carbonate | 7.53 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | 4-{[2-(2-furyl)-1,3-oxazol-4-yl]methoxy}-3-methoxybenzaldehyde | 14.90 g, yield 91% | O1C(=CC=C1)C=1OC=C(N1)COC1=C(C=C(C=O)C=C1)OC | C16H13NO5
